US04546105
A solution of 1-aminopyrrole (4.2 g, 0.05 mol) and 1-methyl-4-piperidone (6.9 g, 0.06 mol) in cyclohexane was refluxed overnight (about 16 hours) over 4 Å molecular sieves. After 3 hours, an additional 1 g of 1-methyl-4-piperidone was added. The molecular sieves were filtered off and the cyclohexane removed by evaporation under reduced pressure. The resulting oil was dissolved in isopropanol and 5 g of sodium borohydride added. The mixture was stirred at reflux for three hours, then methanol was added, the heat was removed, and stirring continued until the mixture had cooled to room temperature. The solvent was removed by evaporation under reduced pressure to give a residue to which water was added. This mixture was extracted with dichloromethane, the dichloromethane solution was dried with saturated sodium chloride solution and magnesium sulfate, and the dichloromethane evaporated in vacuo to give 7 g (78%) of 1-methyl-4-(1H-pyrrol-1-yl)aminopiperidine. To a cooled solution of 1-methyl-4-(1H-pyrrol-1-yl)aminopiperidine (5.4 g, 0.03 mol) and triethylamine (3.35 g, 0.033 mol) in CHCl3 (100 ml) was added dropwise a solution of propionyl chloride (3.07 g, 0.033 mol) in CHCl3 (100 ml). The reaction mixture was stirred at ice bath temperature for one hour, then at room temperature overnight (about 16 hours). The chloroform solution was washed with water, dried with saturated sodium chloride and magnesium sulfate, and the chloroform removed to give 4.8 g of an oil. The oxalate was formed by adding ethereal oxalic acid but did not crystallize. The resultant oil was basified, extracted with dichloromethane and dried to give 3.2 g of an oil. This oil was chromatographed on a high pressure liquid chromatograph (HPLC) using 11/2% diethylamine in acetonitrile. The resultant 1.5 g of free base was converted to the maleate (1.9 g) by adding ethereal maleic acid and recrystallized from absolute ethanol/ether to give 1.8 g, m.p. 146°-147° C. of N-(1-methylpiperidin-4-yl)-N-(1H-pyrrol-1-yl)propanamide maleate. The recovered starting material was reacted again with propionyl chloride (0.7 g) in CH2Cl2 (20 ml) with sodium bicarbonate (1 g) at room temperature overnight. Work-up gave an oil which was dissolved in ether, and an ether solution of maleic acid added to give the maleate salt. Recrystallization from absolute ethanol/ether gave an additional 1.5 g of product of N-(1-methylpiperidin-4-yl)-N-(1H-pyrrol-1-yl)propanamide maleate, mp 146°-147° C., combined yield 3.3 g (9.39 mmole), 31.3% yield from 1-methyl-4-(1H-pyrrol-1-yl)aminopiperidine.

reactant | 1-aminopyrrole | 0.05 mol, 4.2 g | NN1C=CC=C1 | C4H6N2
reactant | 1-methyl-4-piperidone | 0.06 mol, 6.9 g | CN1CCC(CC1)=O | C6H11NO
reactant | 1-methyl-4-piperidone | 1 g | CN1CCC(CC1)=O | C6H11NO
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-methyl-4-(1H-pyrrol-1-yl)aminopiperidine | 7 g, 78% | CN1CCC(CC1)NN1C=CC=C1 | C10H17N3
